US08541429B2
8-[(4-methoxybenzyl)amino]-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B60-X00-M00(C01)-D03]
To a solution of 8-amino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (244 mg, 1.0 mmol) in a mixture of glacial acetic acid/methanol/water (1:1:1) (30 mL) in a round-bottom flask were added p-methoxybenzaldehyde (0.44 mL, 450 mg, 3.0 mmol) and then 85% sodium cyanoborohydride (210 mg, 2.0 mmol). The solution was stirred at room temperature for 7 hours. At that time further amount of aldehyde (0.44 mL) and sodium cyanoborohydride (210 mg) were added and stirring was continued overnight. The reaction mixture was poured into ice-water (200 mL), the pH was adjusted to 10 by addition of saturated sodium carbonate and the solution extracted with ethyl acetate (4×20 mL). The collected organic extracts were washed with brine until neutral, with water and dried over Na2SO4.

reactant | 8-amino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 1.0 mmol, 244 mg | NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N | C11H12N6O
reactant | p-methoxybenzaldehyde | 3.0 mmol, 0.44 mL, 450 mg | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sodium cyanoborohydride | 2.0 mmol, 210 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 210 mg | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid methanol water | 30 mL | C(C)(=O)O.CO.O
product | 8-[(4-methoxybenzyl)amino]-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | COC1=CC=C(CNC2=NC=3C4=C(CCC3C=N2)C(=NN4C)C(=O)N)C=C1 | C19H20N6O2
